US09260375B2
A 0.5 M potassium bistrimethylsilylamide-toluene solution (67.2 mL, 33.6 mmol) was added to anhydrous tetrahydrofuran (30 mL), and the mixture was cooled to −78° C. under nitrogen stream. To this mixture was added dropwise a solution of benzyl cyclopentylacetate (6.11 g, 28 mmol) in anhydrous tetrahydrofuran (30 mL) over 1 h. After the mixture was stirred at −78° C. for 30 min, a solution of Davis oxaziridine reagent (8.78 g, 33.6 mmol) in anhydrous tetrahydrofuran (30 mL) was added dropwise over 1 h. The reaction mixture, which had been stirred at −78° C. for 1 h, was diluted with a saturated aqueous ammonium chloride solution and extracted with diethyl ether. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, filtered, and the organic solvent in the filtrate was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane-ethyl acetate 9:1) to give 6.157 g of benzyl 2-cyclopentyl-2-hydroxyacetate (yield: 94%).

reactant | potassium bistrimethylsilylamide toluene | 33.6 mmol, 0.5 M, 67.2 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+].C1(=CC=CC=C1)C
reactant | benzyl cyclopentylacetate | 28 mmol, 6.11 g | C1(CCCC1)CC(=O)OCC1=CC=CC=C1 | C14H18O2
reactant | Davis oxaziridine | 33.6 mmol, 8.78 g | C1(=CC=CC=C1)S(=O)(=O)N1OC1C1=CC=CC=C1 | C13H11NO3S
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | benzyl 2-cyclopentyl-2-hydroxyacetate | 6.157 g, yield: 94% | C1(CCCC1)C(C(=O)OCC1=CC=CC=C1)O | C14H18O3
